US09120777B2
E) 6-Bromo-3-isopropoxy-2,2′,4′-trifluorobiphenyl-4-carbaldehyde
2-Iodopropane (461 mg) was added at room temperature to a mixture of 6-bromo-2,2′,4′-trifluoro-3-hydroxybiphenyl-4-carbaldehyde (598 mg), potassium carbonate (499 mg), and DMF (10 mL), and the mixture was stirred at 60 C for 3 hours in a nitrogen atmosphere. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer was separated, then washed with water and saturated saline in this order, and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (637 mg).

reactant | 2-Iodopropane | 461 mg | IC(C)C | C3H7I
reactant | 6-bromo-2,2′,4′-trifluoro-3-hydroxybiphenyl-4-carbaldehyde | 598 mg | BrC1=CC(=C(C(=C1C1=C(C=C(C=C1)F)F)F)O)C=O | C13H6BrF3O2
reactant | potassium carbonate | 499 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | 6-Bromo-3-isopropoxy-2,2′,4′-trifluorobiphenyl-4-carbaldehyde | 637 mg | BrC1=CC(=C(C(=C1C1=C(C=C(C=C1)F)F)F)OC(C)C)C=O | C16H12BrF3O2
